US05463080
A. N,N'-bis(isopropyl)-5-Amino-2,4,6-triiodo-1,3-benzenedicarboxamide
To an ice cool stirred solution of 5-amino-2,4,6-triiodo-1,3-benzenedicarboxylic acid, diacid chloride (1.17 g, 2.0 mmol) in 1 mL of dimethylacetamide was added isopropylamine (1.18 g, 20.0 mmol). The solution was stirred at room temperature for 18 hours. The reaction mixture was poured into 20 mL of acetone which resulted in the precipitation of a white solid. The precipitate was filtered, washed with 5 mL acetone and dried in vacuo. The crude title A product was 0.75 g which was used without further purification. TLC (EtOAc/hexane (2:3)) rf 0.6. MS (FAB+): 642 (M+H).

reactant | 5-amino-2,4,6-triiodo-1,3-benzenedicarboxylic acid | NC=1C(=C(C(=C(C1I)C(=O)O)I)C(=O)O)I | C8H4I3NO4
reactant | isopropylamine | 20.0 mmol, 1.18 g | C(C)(C)N | C3H9N
reactant | acetone | 20 mL | CC(=O)C | C3H6O
reactant | dimethylacetamide | 1 mL | CC(=O)N(C)C | C4H9NO
product | N,N'-bis(isopropyl)-5-Amino-2,4,6-triiodo-1,3-benzenedicarboxamide | C(C)(C)NC(=O)C1=C(C(=C(C(=C1I)N)I)C(=O)NC(C)C)I | C14H18I3N3O2
